US09163027B2
2-(4-Chlorophenoxy)ethan-1-ol
A mixture of 4-chlorophenol (5.61 g, 43.65 mmol), 2-bromoethanol (6.0 g, 48.0 mmol), sodium hydroxide (2.62 g, 65.47 mmol), and water (18 mL) was added to a 50 mL RBF with a magnetic stirring bar. The flask was fitted with a condenser, and warmed in an oil bath at 80° C. The solution was heated for 19 hours. Progress of the reaction was monitored by analytical HPLC with UV detection. The reaction mixture was partitioned using ethyl acetate (100 mL) and water (50 mL). The aqueous layer was extracted once more with ethyl acetate (40 mL). The combined organic layer was washed with 1N NaOH (6×40 mL) and saturated aqueous NaCl (40 mL), dried (Na2SO4), filtered, and concentrated. The crude mixture was purified by silica gel column chromatography using 30-100% ethyl acetate in hexanes to afford the title compound as a clear oil (5.67 g, 75% yield).

reactant | 4-chlorophenol | 43.65 mmol, 5.61 g | ClC1=CC=C(C=C1)O | C6H5ClO
reactant | 2-bromoethanol | 48.0 mmol, 6.0 g | BrCCO | C2H5BrO
reactant | sodium hydroxide | 65.47 mmol, 2.62 g | [OH-].[Na+]
solvent | water | 18 mL | O | H2O
product | 2-(4-Chlorophenoxy)ethan-1-ol | 5.67 g, 75% yield | ClC1=CC=C(OCCO)C=C1 | C8H9ClO2
